US08003785B2
To a solution of 7.0 g (0.020 mole) of 2-chloro-7,7-difluoro-9-(trans-2-phenyl-cyclopropyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-287) in 140 mL of dimethylformamide was added 9.7 g (0.030 mole) of cesium carbonate, followed by 3.7 mL (0.060 mole) of iodomethane. After stirring four hours, the mixture filtered and then concentrated under reduced pressure. Ice water and dichloromethane were added. The mixture was extracted with dichloromethane twice. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 6.5 g of 2-chloro-7,7-difluoro-5-methyl-9-(trans-2-phenyl-cyclopropyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-287) as a yellow oil.

reactant | 2-chloro-7,7-difluoro-9-(trans-2-phenyl-cyclopropyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.020 mole, 7.0 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)[C@H]2[C@@H](C2)C2=CC=CC=C2)N1 | C16H13ClF2N4O
reactant | cesium carbonate | 0.030 mole, 9.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 0.060 mole, 3.7 mL | IC | CH3I
solvent | dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
product | 2-chloro-7,7-difluoro-5-methyl-9-(trans-2-phenyl-cyclopropyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 6.5 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)[C@H]2[C@@H](C2)C2=CC=CC=C2)N1 | C17H15ClF2N4O
